US08865726B2
A mixture of 2-(4-bromophenyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazole (17.1 g, 47.0 mmol), DPPF (0.703 g, 2.82 mmol), PdCl2-dppf-dichloromethane (1.41 g, 5.64 mmol), potassium acetate (8.33 g, 141 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (35.8 g, 141 mmol) in dioxane (200 mL) under N2 was heated at 90° C. for 18 hours. The crude product was filtered through a pad of Celite, washed with saturated NaHCO3, brine, dried over MgSO4, filtered, and concentrated. Purification of the crude material by column chromatography, eluting with 30% EtOAc/Hexane, afforded 2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazole as a light orange oil (13.8 g, 47%). LCMS (APCI+) m/z 401 [M+H]+.

reactant | 2-(4-bromophenyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazole | 47.0 mmol, 17.1 g | BrC1=CC=C(C=C1)C=1N(C=CN1)COCC[Si](C)(C)C | C15H21BrN2OSi
reactant | potassium acetate | 141 mmol, 8.33 g | C(C)(=O)[O-].[K+]
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 141 mmol, 35.8 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
solvent | dioxane | 200 mL | O1CCOCC1 | C4H8O2
catalyst | DPPF | 2.82 mmol, 0.703 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
catalyst | PdCl2 dppf dichloromethane | 5.64 mmol, 1.41 g | Cl[Pd]Cl.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2].ClCCl
product | 2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazole | 13.8 g, 47% | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C=1N(C=CN1)COCC[Si](C)(C)C)C | C21H33BN2O3Si
